US04175127
A mixture of 16.57 g (0.065 m) of 4,5-di(2-pyridyl)-1H-imidazole-2-thione in 150 ml of dimethylformamide was stirred at -15° (ice-methanol-dry ice) under nitrogen and 27 ml (6.2 g, 0.15 m) of a 24% suspension of potassium hydride in mineral oil was added gradually. After about 2 hours, a solution of 11.8 g (5.42 ml, 0.0634 m) of dibromoethane in 60 ml of dimethylformamide was added dropwise. The reaction mixture was allowed to attain room temperature overnight. The mixture was poured into 600 ml of water. The aqueous mixture was extracted with 3×200 ml portions of methylenechloride. The combined extracts were washed with 5×100 ml water, brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was triturated under 25 ml of low boiling petroleum ether. The product was separated, dissolved in 50 ml of ethanol. The solution was chilled until crystallization was complete, filtered, and the product was washed with a small portion of cold ethanol and air dried. Yield 9.1 g, m.p. 140°-142°. Crystallization three times from ethanol gave an analytical sample of 5,6-di-(2-pyridyl)-2,3-dihydroimidazo[2,1-b]thiazole, m.p. 142°-143°.

reactant | 4,5-di(2-pyridyl)-1H-imidazole-2-thione | 16.57 g | N1=C(C=CC=C1)C=1NC(NC1C1=NC=CC=C1)=S | C13H10N4S
reactant | potassium hydride | [H-].[K+]
reactant | dibromoethane | 5.42 ml, 11.8 g | BrC(C)Br | C2H4Br2
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 5,6-di-(2-pyridyl)-2,3-dihydroimidazo[2,1-b]thiazole | N1=C(C=CC=C1)C1=C(N=C2SCCN21)C2=NC=CC=C2 | C15H12N4S
